US07314885B2
4-[4-(2,3-Difluoro-phenyl)-4H-[1,2,4]triazol-3-yl]-1H-pyrrole-2-carboxylic acid:
A mixture of 4-[N-(2,3-difluoro-phenyl)-N′-amino-carbamimidoyl]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester (200 mg, 0.54 mmol), CH(OEt)3 (4 mL), and HCOOH (0.8 mL) was stirred at room temperature for 2 hours and poured into 50 mL of aqueous NaHCO3 solution. The aqueous mixture was extracted with EtOAc and the combined organic layers were dried over Na2SO4, filtered, and evaporated. The crude material was used for the next step without further purification. This crude product was dissolved in MeOH (5 mL) then 6N NaOH aqeous solution was added (1 mL) and the mixture was heated at 50° C. for 3 hours. The solvent was evaporated and the residue was acidified with 6N HCl to pH 3. The white precipitate was collected by filtration and washed with water. The crude product (150 mg, 96%) was dried on the pump for the next reaction. 1H NMR (500 MHz, DMSO-d6) δ12.61 (s, br, 1H), 12.20 (s, 1H), 8.78 (s, 1H), 7.75 (m, 1H), 7.55 (m, 1H), 7.47 (m, 1H), 6.96 (s, 1H), 6.58 (s, 1H) ppm. MS (ES+): m/e=291.1 (M+H); LC/Method A/2.46 min.

reactant | 4-[N-(2,3-difluoro-phenyl)-N′-amino-carbamimidoyl]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid methyl ester | 0.54 mmol, 200 mg | COC(=O)C=1N(C=C(C1)C(NC1=C(C(=CC=C1)F)F)=NN)S(=O)(=O)C | C14H14F2N4O4S
reactant | CH(OEt)3 | 4 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | HCOOH | 0.8 mL | C(=O)O | CH2O2
product | 4-[4-(2,3-Difluoro-phenyl)-4H-[1,2,4]triazol-3-yl]-1H-pyrrole-2-carboxylic acid | FC1=C(C=CC=C1F)N1C(=NN=C1)C=1C=C(NC1)C(=O)O | C13H8F2N4O2
